US06559166B1
1-[2-(2.4-Difluorophenyl)ethyl -4-[4-(2-methyltetrazol-5-yl)-phenylsulphonyl]piperidine
A mixture of 4-(4-bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine (0.38 g, 0.86 mmol), 2-methyl-5-(tributylstannyl)tetrazole (0.64 g, 1.72 mmol) and tetrakis(triphenylphosphine)palladium (100 mg, 0.02 mmol) in DMF was heated at 110° C. for 16 hours while stirring under nitrogen. The solution was poured into water/EtOAc (5/20 ml) and further extracted into EtOAc. The combined organic phase was washed with water, dried (Na2SO4) and evaporated to yield a syrup. Column chromatography (silica, EtOAc) followed by recrystallisation from EtOAc yielded 220 mg of crystalline material. δH (400 MHz, CDCl3) 1.73-1.80 (2H, m), 1.98-2.06 (4H, m), 2.50-2.54 (2H, m), 2.71-2.75 (2H, m), 2.92-2.98 (1H, m), 3.05-3.08 (2H, m), 4.45 (3H, s), 6.71-6.80 (2H, m), 7.09-7.14 (1H, m), 7.99 (1H, d, J 5.2 Hz), 8.34 (1H, d, J 5.2 Hz).

reactant | 4-(4-bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine | 0.86 mmol, 0.38 g | BrC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)CCC1=C(C=C(C=C1)F)F | C19H20BrF2NO2S
reactant | 2-methyl-5-(tributylstannyl)tetrazole | 1.72 mmol, 0.64 g | CN1N=C(N=N1)[Sn](CCCC)(CCCC)CCCC
reactant | water EtOAc | 20 ml | O.CCOC(=O)C
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2.4-Difluorophenyl)ethyl -4-[4-(2-methyltetrazol-5-yl)-phenylsulphonyl]piperidine | 220 mg | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)C=1N=NN(N1)C | C21H23F2N5O2S
